US05028617
[2-(2-Ethoxyethoxy)-5-pyridyl]acetone
6.5 ml of concentrated hydrochloric acid are added dropwise to a boiling suspension of 800 mg (3.2 mmol) of 1-[2-(2-ethoxyethoxy)-5-pyridyl]-2-nitro-1-propene and 710 mg of iron filings in 10 ml of methanol. After 30 minutes the mixture is filtered and diluted with water. It is washed with ether, adjusted to pH 7 and extracted with ether. The organic phase is washed with 1% strength aqueous sodium hydroxide solution and then with water, dried over sodium sulphate and evaporated.

reactant | hydrochloric acid | 6.5 ml | Cl | ClH
reactant | 1-[2-(2-ethoxyethoxy)-5-pyridyl]-2-nitro-1-propene | 3.2 mmol, 800 mg | C(C)OCCOC1=NC=C(C=C1)C=C(C)[N+](=O)[O-] | C12H16N2O4
reactant | methanol | 10 ml | CO | CH4O
catalyst | iron | 710 mg | [Fe] | Fe
product | [2-(2-Ethoxyethoxy)-5-pyridyl]acetone | C(C)OCCOC1=NC=C(C=C1)CC(C)=O | C12H17NO3
